US05629406
(4S)-1-[(2S,3S)-3-Amino-2-hydroxy-4-phenylbutyryl]-4-chloro-N-t-butyl-L-prolinamide
A solution of 20.0 g (35.6 mmol) of (4S)-1-[(2S,3S)-3-(N,N-dibenzylamino)-2-hydroxy-4-phenylbutyryl]-4-chloro-N-t-butyl-L-prolinamide dissolved in 200 ml of a 4.5% by volume solution of formic acid in methanol was stirred in the presence of 3 g of palladium black at room temperature for 3 hours and then at 40° C. for 2 hours. At the end of this time, the catalyst was removed by filtration, and the filtrate was concentrated by evaporation under reduced pressure. The concentrate was then diluted with ethyl acetate. The diluted solution was washed with a saturated aqueous solution of sodium hydrogencarbonate and then dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was dissolved in benzene. Hexane was added to the resulting solution, to obtain 13.1 g of the title compound as a colorless powder, melting at 126°-130° C.

reactant | (4S)-1-[(2S,3S)-3-(N,N-dibenzylamino)-2-hydroxy-4-phenylbutyryl]-4-chloro-N-t-butyl-L-prolinamide | 35.6 mmol, 20.0 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@H]([C@@H](C(=O)N1[C@H](C(=O)NC(C)(C)C)C[C@@H](C1)Cl)O)CC1=CC=CC=C1 | C33H40ClN3O3
solvent | formic acid | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
catalyst | palladium black | 3 g | [Pd] | Pd
product | (4S)-1-[(2S,3S)-3-Amino-2-hydroxy-4-phenylbutyryl]-4-chloro-N-t-butyl-L-prolinamide | 13.1 g | N[C@H]([C@@H](C(=O)N1[C@H](C(=O)NC(C)(C)C)C[C@@H](C1)Cl)O)CC1=CC=CC=C1 | C19H28ClN3O3
